US04432993
N-[2-(4-Hydroxyphenyl)-1-methylethyl]-2-(2-benzofuranyl)-2-hydroxyethanamine
N-[2-(4-Benzoyloxyphenyl)-1-methylethyl]-2-(2-benzofuranyl)-2-hydroxyethanamine (2 g) in ethyl acetate (150 ml) was hydrogenated over 5% palladium on charcoal at atmospheric pressure. After uptake of hydrogen had ceased the mixture was filtered and the filtrate evaporated to dryness. Chromatography of the residual oil on Kieselgel 60 (5% methanol in dichloromethane) gave the title compound, m.p. 135°-8°, (EtOAc-ether), as a 94:6 mixture of diastereoisomers.

reactant | N-[2-(4-Benzoyloxyphenyl)-1-methylethyl]-2-(2-benzofuranyl)-2-hydroxyethanamine | 2 g | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)CC(C)NCC(O)C=1OC2=C(C1)C=CC=C2 | C26H25NO4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | [Pd] | Pd
product | N-[2-(4-Hydroxyphenyl)-1-methylethyl]-2-(2-benzofuranyl)-2-hydroxyethanamine | OC1=CC=C(C=C1)CC(C)NCC(O)C=1OC2=C(C1)C=CC=C2 | C19H21NO3
